****

.LIB /modelfile_65nm/typNtypP.cir
.include 'Netlist/Chacha_4x128_Circuit.cir'
*.include 'Netlist/Array32x4_main'
.include 'Netlist/Array32x4_main2'
.include 'Netlist/Array32x4_sub'
.include 'Netlist/Output.cir'
.include 'Netlist/memory_initialization'
.option AEX




XCol1 Calc_en Cout IN0 IN1 IN2 IN3 IN4 IN5 IN6 IN7 IN8 IN9 IN10 
+ IN11 IN12 IN13 IN14 IN15 IN16 IN17 IN18 IN19 IN20 IN21 IN22 IN23 IN24 IN25 
+ IN26 IN27 IN28 IN29 IN30 IN31 IN32 IN33 IN34 IN35 IN36 IN37 IN38 IN39 IN40 
+ IN41 IN42 IN43 IN44 IN45 IN46 IN47 IN48 IN49 IN50 IN51 IN52 IN53 IN54 IN55 
+ IN56 IN57 IN58 IN59 IN60 IN61 IN62 IN63 IN64 IN65 IN66 IN67 IN68 IN69 IN70 
+ IN71 IN72 IN73 IN74 IN75 IN76 IN77 IN78 IN79 IN80 IN81 IN82 IN83 IN84 IN85 
+ IN86 IN87 IN88 IN89 IN90 IN91 IN92 IN93 IN94 IN95 IN96 IN97 IN98 IN99 IN100 
+ IN101 IN102 IN103 IN104 IN105 IN106 IN107 IN108 IN109 IN110 IN111 IN112 
+ IN113 IN114 IN115 IN116 IN117 IN118 IN119 IN120 IN121 IN122 IN123 IN124 
+ IN125 IN126 IN127 MUX_SEL0 MUX_SEL1 MUX_SEL2 PreCh RBL0 RBL1 RBLB0 RBLB1 
+ RWL0 RWL1 RWL_en Row0sel Row1sel Row2sel Row3sel SAen Sout0 SoutB0 Vdd WBL0 
+ WBL1 WBLB0 WBLB1 WL0_sel WL1_sel WL2_sel WL3_sel WWL0 WWL1 WWL_en Wrdv_in0 
+ clk gnd mem0_0 mem0_1 mem0_2 mem0_3 mem0_4 mem0_5 mem0_6 mem0_7 mem0_8 
+ mem0_9 mem0_10 mem0_11 mem0_12 mem0_13 mem0_14 mem0_15 mem0_16 mem0_17 
+ mem0_18 mem0_19 mem0_20 mem0_21 mem0_22 mem0_23 mem0_24 mem0_25 mem0_26 
+ mem0_27 mem0_28 mem0_29 mem0_30 mem0_31 mem1_0 mem1_1 mem1_2 mem1_3 mem1_4 
+ mem1_5 mem1_6 mem1_7 mem1_8 mem1_9 mem1_10 mem1_11 mem1_12 mem1_13 mem1_14 
+ mem1_15 mem1_16 mem1_17 mem1_18 mem1_19 mem1_20 mem1_21 mem1_22 mem1_23 
+ mem1_24 mem1_25 mem1_26 mem1_27 mem1_28 mem1_29 mem1_30 mem1_31 mem2_0 
+ mem2_1 mem2_2 mem2_3 mem2_4 mem2_5 mem2_6 mem2_7 mem2_8 mem2_9 mem2_10 
+ mem2_11 mem2_12 mem2_13 mem2_14 mem2_15 mem2_16 mem2_17 mem2_18 mem2_19 
+ mem2_20 mem2_21 mem2_22 mem2_23 mem2_24 mem2_25 mem2_26 mem2_27 mem2_28 
+ mem2_29 mem2_30 mem2_31 mem3_0 mem3_1 mem3_2 mem3_3 mem3_4 mem3_5 mem3_6 
+ mem3_7 mem3_8 mem3_9 mem3_10 mem3_11 mem3_12 mem3_13 mem3_14 mem3_15 mem3_16 
+ mem3_17 mem3_18 mem3_19 mem3_20 mem3_21 mem3_22 mem3_23 mem3_24 mem3_25 
+ mem3_26 mem3_27 mem3_28 mem3_29 mem3_30 mem3_31 memB0_0 memB0_1 memB0_2 
+ memB0_3 memB0_4 memB0_5 memB0_6 memB0_7 memB0_8 memB0_9 memB0_10 memB0_11 
+ memB0_12 memB0_13 memB0_14 memB0_15 memB0_16 memB0_17 memB0_18 memB0_19 
+ memB0_20 memB0_21 memB0_22 memB0_23 memB0_24 memB0_25 memB0_26 memB0_27 
+ memB0_28 memB0_29 memB0_30 memB0_31 memB1_0 memB1_1 memB1_2 memB1_3 memB1_4 
+ memB1_5 memB1_6 memB1_7 memB1_8 memB1_9 memB1_10 memB1_11 memB1_12 memB1_13 
+ memB1_14 memB1_15 memB1_16 memB1_17 memB1_18 memB1_19 memB1_20 memB1_21 
+ memB1_22 memB1_23 memB1_24 memB1_25 memB1_26 memB1_27 memB1_28 memB1_29 
+ memB1_30 memB1_31 memB2_0 memB2_1 memB2_2 memB2_3 memB2_4 memB2_5 memB2_6 
+ memB2_7 memB2_8 memB2_9 memB2_10 memB2_11 memB2_12 memB2_13 memB2_14 
+ memB2_15 memB2_16 memB2_17 memB2_18 memB2_19 memB2_20 memB2_21 memB2_22 
+ memB2_23 memB2_24 memB2_25 memB2_26 memB2_27 memB2_28 memB2_29 memB2_30 
+ memB2_31 memB3_0 memB3_1 memB3_2 memB3_3 memB3_4 memB3_5 memB3_6 memB3_7 
+ memB3_8 memB3_9 memB3_10 memB3_11 memB3_12 memB3_13 memB3_14 memB3_15 
+ memB3_16 memB3_17 memB3_18 memB3_19 memB3_20 memB3_21 memB3_22 memB3_23 
+ memB3_24 memB3_25 memB3_26 memB3_27 memB3_28 memB3_29 memB3_30 memB3_31 
+ row0_rwl row2_rwl w_en wr_en0 Array128_4
***********LATCH Vaues***********
*** memory_initialization file

***********Gnd and Vdd Connections***********
.connect gnd 0
v0 Vdd gnd dc 1.2

***pattern (VHI VLOW TDELAY TRISE TFALL TSAMPLE TBITS R)
***(R means periodic)


**************************************************************
*w_com_rot 1 -> write-back output of sum
*w_com_rot 0 -> write-back output of xor+rot
**************************************************************

***********Control Signals***********
*Row0+Row1----> store in Row0
*Row0 xor Row3 rotleft by 3 --> store in Row0
*Precharge is active-low

*need clock=0 and WWL_en=1 for Write Decoder circuit
*Write operation only done in negative clock cycle, when clock=0 and WWL_en=1

*need clock=1 and RWL_en=1 for Read Decoder circuit
*Read operation done in positive clock cycle, when clock=0 and WWL_en=1

*Add row0 row1 : shot both bitlines
*Benefit RCS as R0 is accessed by main-decoder and written also, common WL signals helps


*RCS implemented partially, WWL RWL not merged , but these can be merged!!!!!
*Can't bring the precharge high until write operation is completed
*************************************************************************

.ic v(Sout0)=0v v(SoutB0)=0v
*Doubt when can we turn off the clock signal? as address decoders
*Turning off address decoders before sense amp high
*1.4ns to precharge the bitlines
*clock = 1100 cuz writedecoder need clock=0 and enable=1
*											   01   30    23   12    03
* Complete Odd+shift+Even Round		   	  |---------------Even Rounds--------------| |---shiftup---| |---------------Odd Rounds--------------|   |---shiftdw--|
vclk clk       gnd	pattern 1.2 0 2p 2p 2p 1n 0110 0110 0110 0110  0110 0110 0110 0110   0110 0110 0110   0110 0110 0110 0110 0110 0110 0110 0110    0110 0110 0110 0 R 
vprh PreCh     gnd	pattern 1.2 0 2p 2p 2p 1n 0111 0111 0111 0111  0111 0111 0111 0111  0111 0111 0111    0111 0111 0111 0111 0111 0111 0111 0111    0111 0111 0111 0 R
vr1  RWL1      gnd  pattern 1.2 0 2p 2p 2p 1n 0000 0110 0110 0000  0000 0110 0110 0000  0000 0110 0110    0000 0110 0110 0000 0000 0110 0110 0000    0000 0110 0110 0 R
vr0  RWL0      gnd  pattern 1.2 0 2p 2p 2p 1n 0110 0110 0110 0110  0110 0110 0110 0110  0110 0000 0110    0110 0110 0110 0110 0110 0110 0110 0110    0110 0000 0110 0 R
vren RWL_en    gnd  pattern 1.2 0 2p 2p 2p 1n 0110 0110 0110 0110  0110 0110 0110 0110  0110 0110 0110    0110 0110 0110 0110 0110 0110 0110 0110    0110 0110 0110 0 R
v6  SAen       gnd  pattern 1.2 0 2p 2p 2p 1n 0010 0010 0010 0010  0010 0010 0010 0010  0010 0010 0010    0010 0010 0010 0010 0010 0010 0010 0010    0010 0010 0010 0 R
vcalc Calc_en  gnd 	pattern 1.2 0 2p 2p 2p 1n 1101 1101 1101 1101  1101 1101 1101 1101  1101 1101 1101    1101 1101 1101 1101 1101 1101 1101 1101    1101 1101 1101 0 R
vw1  WWL1      gnd 	pattern 1.2 0 2p 2p 2p 1n 0000 1111 1111 0000  0000 1111 1111 0000  0000 0000 0000    0000 1111 1111 0000 0000 1111 1111 0000    0000 0000 0000 0 R
vw0  WWL0 	   gnd 	pattern 1.2 0 2p 2p 2p 1n 0000 1111 0000 1111  0000 1111 0000 1111  1111 1111 1111    0000 1111 0000 1111 0000 1111 0000 1111    1111 1111 1111 0 R
vwen WWL_en    gnd	pattern 1.2 0 2p 2p 2p 1n 0011 0011 0011 0011  0011 0011 0011 0011  0011 0011 0011    0011 0011 0011 0011 0011 0011 0011 0011    0011 0011 0011 0 R
v7  w_en       gnd  pattern 1.2 0 2p 2p 2p 1n 0001 0001 0001 0001  0001 0001 0001 0001  0001 0001 0001    0001 0001 0001 0001 0001 0001 0001 0001    0001 0001 0001 0 R
vRWL1 row0_rwl gnd	pattern 1.2 0 2p 2p 2p 1n 0110 0110 0000 0000  0110 0110 0000 0000  0000 0000 0000    0110 0110 0000 0000 0110 0110 0000 0000    0000 0000 0000 0 R
vRWL2 row2_rwl gnd	pattern 1.2 0 2p 2p 2p 1n 0000 0000 0110 0110  0000 0000 0110 0110  0000 0000 0000    0000 0000 0110 0110 0000 0000 0110 0110    0000 0000 0000 0 R
vmux0 MUX_SEL0 gnd  pattern 1.2 0 2p 2p 2p 1n 0000 0000 0000 0000  0000 0000 0000 1111  1111 1111 1111    0000 0000 0000 0000 0000 0000 0000 1111    1111 1111 1111 0 R
vmux1 MUX_SEL1 gnd  pattern 1.2 0 2p 2p 2p 1n 0000 0000 0000 1111  0000 1111 0000 0000  0000 1111 1111    0000 0000 0000 1111 0000 1111 0000 0000    1111 1111 0000 0 R
vmux2 MUX_SEL2 gnd  pattern 1.2 0 2p 2p 2p 1n 0000 1111 0000 0000  0000 1111 0000 0000  1111 0000 1111    0000 1111 0000 0000 0000 1111 0000 0000    1111 0000 1111 0 R

.connect wr_en0 w_en



***MUX SELECT SIGNALS (shift LSB -> MSB )
MuxSEl012
***000 sum_in
***001 barrel  shift  16
***010 barrel  shift  12
***011 barrel  shift  8
***100 barrel  shift  7
***101 barrel  shift  colLS1
***110 barrel  shift  colLS2
***111 barrel  shift  colLS3

*********************************
*1. Find Pch Delay to charge (worst case-consecutive write) done
*2. Calc Pch Off time to do read+write operation ,XOR+Rot (RCS)
*3. Calc Pch Off time to do read+write operation , Addition(RCS)

*********************************




*.tran 2p 811n
.tran 2p 1n
.plot tran
+ I(v0)
+ v(clk) v(PreCh) v(RWL1) v(RWL0) v(RWL_en)
+ v(Row0sel) v(Row1sel) v(Row2sel) v(Row3sel)
+ v(WL0_sel) v(WL1_sel) v(WL2_sel) v(WL3_sel)
+ v(WBL0) v(WBLB0) 
+ v(RBL0) v(RBLB0) 
+ v(Sout0) v(SoutB0) 
+ v(Wrdv_in0)
+ v(SAen) v(WWL1) v(WWL0) v(WWL_en) v(wr_en0) v(w_en)
+ v(IN0) v(IN1) v(IN2) v(IN3) v(IN4)

+ v(mem0_0)  v(memB0_0)
+ v(mem1_0)  v(memB1_0)
+ v(mem2_0)  v(memB2_0)
+ v(mem3_0)  v(memB3_0)


+ v(mem0_1)  v(memB0_1)
+ v(mem1_1)  v(memB1_1)
+ v(mem2_1)  v(memB2_1)
+ v(mem3_1)  v(memB3_1)

+ v(mem0_2)  v(memB0_2)
+ v(mem1_2)  v(memB1_2)
+ v(mem2_2)  v(memB2_2)
+ v(mem3_2)  v(memB3_2)


+ v(mem0_3)  v(memB0_3)
+ v(mem1_3)  v(memB1_3)
+ v(mem2_3)  v(memB2_3)
+ v(mem3_3)  v(memB3_3)

.alter
.include 'power.cir'
.alter
.include 'power.cir'

.end
